US06596751B2
N-(2-Benzoylphenyl)-4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenylalanine methyl ester (methyl ester of exemplification compound number 3-188)
A mixture of 4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenylalanine methyl ester (1.1 g), 2-benzoylcyclohexanone (0.7 g), palladium on carbon (10%, 0.2 g) and anisole (15 ml) was heated at reflux for 21 hours. Insoluble material of the reaction mixture was removed by filtration and the anisole of the filtrate was evaporated under reduced pressure. The residue was chromatographed on a silica gel column using hexane:ethyl acetate=1:2 as the eluant to afford the title compound (0.95 g, Rf=0.51 (thin layer chromatography on silica gel using hexane:ethyl acetate=1:3 as the eluant)).

reactant | 4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenylalanine methyl ester | 1.1 g | COC([C@@H](N)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=C(C=C2)OC)=O | C20H23N3O4
reactant | 2-benzoylcyclohexanone | 0.7 g | C(C1=CC=CC=C1)(=O)C1C(CCCC1)=O | C13H14O2
reactant | anisole | 15 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | palladium on carbon | 0.2 g | [Pd] | Pd
product | N-(2-Benzoylphenyl)-4-(6-methoxy-1-methyl-1H-benzimidazol-2-ylmethoxy)phenylalanine methyl ester | COC([C@@H](NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=NC2=C(N1C)C=C(C=C2)OC)=O | C33H31N3O5
